US08541411B2
b) 6-bromo-2-(1-methylethyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole
A mixture of 6-bromo-2-isopropyl-4-nitro-1H-benzo[d]imidazole (4.7 g), 1-(bromomethyl)naphthalene (4.01 g) and K2CO3 (4.55 g) in DMF (150 mL) was stirred at 80° C. for 2 h. It was cooled to room temperature and filtered. The filtrate was then poured into water (1 L). It was then filtered to afford a solid that was washed with water and then dried in-vacuo to afford the crude product (7.2 g). LC-MS: m/e=425 [M+1]+

reactant | 6-bromo-2-isopropyl-4-nitro-1H-benzo[d]imidazole | 4.7 g | BrC=1C=C(C2=C(NC(=N2)C(C)C)C1)[N+](=O)[O-] | C10H10BrN3O2
reactant | 1-(bromomethyl)naphthalene | 4.01 g | BrCC1=CC=CC2=CC=CC=C12 | C11H9Br
reactant | K2CO3 | 4.55 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | 6-bromo-2-(1-methylethyl)-1-(1-naphthalenylmethyl)-4-nitro-1H-benzimidazole | 7.2 g | BrC=1C=C(C2=C(N(C(=N2)C(C)C)CC2=CC=CC3=CC=CC=C23)C1)[N+](=O)[O-] | C21H18BrN3O2
